US07579469B2
To a solution of 1-[2-hydroxy-4-(2-methoxy-5-thiophen-3-ylphenyl)-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one (32 mg, 0.06 mmol) in methylene chloride (1 mL) at 0° C. under an argon atmosphere was added BBr3 (0.06 mL, 0.6 mmol). The mixture was warmed to room temperature, stirred 3 hours, cooled to 0° C., stirred 2 days, and quenched with methanol (5 mL). The volatiles were removed in vacuo and the residue diluted with ethyl acetate (10 mL), washed with saturated aqueous sodium bicarbonate (5 mL), and brine (5 mL), and dried over magnesium sulfate. The volatiles were removed in vacuo and the residue purified by reverse phase HPLC to afford 1-[2-hydroxy-4-(2-hydroxy-5-thiophen3-ylphenyl)-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one (20 mg, 68%).

reactant | 1-[2-hydroxy-4-(2-methoxy-5-thiophen-3-ylphenyl)-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | 0.06 mmol, 32 mg | OC(CN1C=CC(C2=CC=CC=C12)=O)(CC(C)(C)C1=C(C=CC(=C1)C1=CSC=C1)OC)C(F)(F)F | C27H26F3NO3S
reactant | BBr3 | 0.6 mmol, 0.06 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-[2-hydroxy-4-(2-hydroxy-5-thiophen3-ylphenyl)-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | 20 mg, 68% | OC(CN1C=CC(C2=CC=CC=C12)=O)(CC(C)(C)C1=C(C=CC(=C1)C1=CSC=C1)O)C(F)(F)F | C26H24F3NO3S
